US09334286B2
Preparation 64: 7-Bromo-1,6-naphthyridine-2-carboxylic acid
7-Bromo-2-methyl-1,6-napthyridine (Preparation 65, 206 mg, 0.92 mmol) and selenium dioxide (102.5 mg, 0.92 mmol) were heated in dioxane (3 mL) at 80° C. for 2 hours. The reaction was diluted with DCM (6 mL) and filtered through celite. The filter cake was washed with DCM (3×9 mL) and the combined filtrates concentrated in vacuo. The residue was stirred with formic acid (1 mL) and hydrogen peroxide (35% aqueous solution, 50 uL, 0.67 mmol) was added. The reaction was stirred at 0° C. for 1 hour before the reaction was quenched by the addition of palladium on charcoal (3 mg) and stirred for a further 20 minutes. The reaction was concentrated in vacuo to afford the title compound.

reactant | 7-Bromo-2-methyl-1,6-napthyridine | 0.92 mmol, 206 mg | BrC1=NC=C2C=CC(=NC2=C1)C | C9H7BrN2
reactant | selenium dioxide | 0.92 mmol, 102.5 mg | [Se](=O)=O | O2Se
reactant | formic acid | 1 mL | C(=O)O | CH2O2
reactant | hydrogen peroxide | 0.67 mmol, 50 uL | OO | H2O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 7-Bromo-1,6-naphthyridine-2-carboxylic acid | BrC1=NC=C2C=CC(=NC2=C1)C(=O)O | C9H5BrN2O2
